US06603005B2
0.1 cm3 of diethylaminosulfur trifluoride was added to a solution of 0.25 g of methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate in 10 cm3 of dichloromethane, with stirring and under an inert atmosphere, at a temperature in the region of 5° C. After stirring for 7 hours at a temperature in the region of 20° C., saturated sodium hydrogen carbonate solution was added to the reaction mixture. The aqueous phase was extracted with dichloromethane. The organic phase was dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 70-200μ; mass: 15 g), eluting with 60 cm3 of dichloromethane, then with 45 cm3 of a mixture of ethyl acetate/dichloromethane (1/9 by volume), then with 30 cm3 of a mixture of ethyl acetate/dichloromethane (2/8 by volume) and then with 210 cm3 of a mixture of ethyl acetate/dichloromethane (3/7 by volume) and then with ethyl acetate. Fractions 24 to 26 were combined and then concentrated to dryness according to the same conditions as above. 0.08 g of methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate was obtained in the form of a thick yellow oil.

reactant | diethylaminosulfur trifluoride | 0.1 cm3 | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-hydroxypropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate | 0.25 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)OC)O)OC | C28H31ClF2N2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | methyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)-3-(R,S)-fluoropropyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-4-carboxylate | 0.08 g | ClC=1C=NC2=CC=C(C=C2C1C(CCC1(CCN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)OC)F)OC | C28H30ClF3N2O3S
